### PR TITLE
[Merged by Bors] - feat: Ordinal Approximants of the least/greatest fixed point in a complete lattice

### PR DESCRIPTION
**Pull request by PhoenixIra**
Define ordinal approximants for the least/greatest fixed points of a monotone function in a complete lattice. It is sometimes also called the constructive Knaster-Tarski Theorem, first introduced by Cousot & Cousot in 1979. This implementation is however not constructive.

This has a variety of applications in non standard logics and proofs such as quantitative logics or cyclic proofs.

---

I am a bit unsure about the placement of certain theorems, namely:
-  The placement of the `limitation` definition and its theorems. This feels very special to this theorem. Thus I left it in this file. It could however also live somewhere in Ordinals/Cardinals
- The theorems `monotone_stabilizing` and  `antitone_stabilizing`. I first thought about placing them in `Mathlib.Order.Monotone.Basic`. However, `Monotone` is using preorders and not partialorders, where this theorem does not hold. Maybe this theorem is also already proven somewhere else and I missed it?
- The `OrdinalApprox` namespace could also live in `Mathlib.Order.FixedPoints`. However, I decided aginst it as this would mean that importing `Mathlib.Order.FixedPoints` would also import a lot of (likely unecessary) files from `Mathlib.SetTheory.Ordinal` and `Mathlib.SetTheory.Cardinal` when not using ordinal approximants.

I appreciate comments regarding these questions and reviews in general. I also appreciate a comment if this has already been done and I just totally missed it.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 1]
```diff
@@ -0,0 +1,365 @@
...
+  sSup { f (lfp_approx b) | (b : Ordinal) (h : b < a) }
+termination_by lfp_approx a => a
+decreasing_by exact h
+
+theorem lfp_approx_monotone : Monotone (lfp_approx f) := by
+  unfold Monotone; intros a b h; unfold lfp_approx
+  refine sSup_le_sSup ?h; simp
+  intros a' h'
+  use a'; apply And.intro; exact lt_of_lt_of_le h' h
+  exact rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:115]: Make sure to use `·` to demarcate different subgoals

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 2]
```diff
@@ -0,0 +1,365 @@
...
+
+/-- Ordinal approximants of the least fixed points as an order homomorphism -/
+def lfp_approx_hom : Ordinal.{u} →o α where
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:118]:
```suggestion
def lfpApproxHom : Ordinal.{u} →o α where
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 3]
```diff
@@ -0,0 +1,365 @@
...
+  toFun i := lfp_approx f i
+  monotone' a b h := by simp; apply lfp_approx_monotone f h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:120]: Squeeze all non-terminal `simp`s

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 4]
```diff
@@ -0,0 +1,365 @@
...
+    apply sSup_le; simp
+    intro a' ha'b
+    by_cases haa : a' < a
+    · rw[lfp_approx_addition]
+      apply lfp_approx_monotone
+      simp; exact haa
+    · simp at haa
+      cases (le_iff_lt_or_eq.mp haa) with
+      | inl haa => specialize IH a' ha'b haa; rw[IH, h];
+      | inr haa => rw[← haa, h];
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:149]: There should not be a need to end a line with a semicolon. Please remove them in the entire PR

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 5]
```diff
@@ -0,0 +1,365 @@
...
+  · conv => right; unfold lfp_approx
+    apply le_sSup; simp
+    use a
+
+/-- Every value after a fixed point of f is also a fixed point of f -/
+theorem lfp_approx_eq_fp (a : Ordinal.{u}) (h: lfp_approx f a ∈ (fixedPoints f)):
+    ∀ b > a, lfp_approx f b ∈ (fixedPoints f)  := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:156]:
```suggestion
    ∀ b > a, lfp_approx f b ∈ fixedPoints f := by
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 6]
```diff
@@ -0,0 +1,365 @@
...
+  have h_ninj := Function.Injective.not_exists_equal (limitation_not_injective $ lfp_approx f)
+  let ⟨a, b, h_nab, h_fab⟩ := h_ninj
+  rw[limitation_def, limitation_def] at h_fab
+  use a.val; apply And.intro a.prop;
+  use b.val; apply And.intro b.prop;
+  apply And.intro
+  · intro h_eq; rw[Subtype.coe_inj] at h_eq; exact h_nab h_eq
+  · exact h_fab
+
+/-- If there are ordinals with equal value then the values are fixed points of f -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:175]: Presumably
```suggestion
/-- If there are distinct ordinals with equal value then the values are fixed points of f -/
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 7]
```diff
@@ -0,0 +1,365 @@
...
+lemma lfp_approx_one_fixedPoint (a b : Ordinal.{u}) (h : a < b)
+    (h_fab : lfp_approx f a = lfp_approx f b):
+    lfp_approx f a ∈ (fixedPoints f) := by
+  rw[mem_fixedPoints_iff,lfp_approx_addition]
+  apply Monotone.monotone_stabilizing (lfp_approx f) (lfp_approx_monotone f)
+    h_fab (a+1) (SuccOrder.succ_le_of_lt h) (SuccOrder.le_succ a)
+
+/-- If there are ordinals with equal value then
+  every value follwing the smaller ordinal are fixed points of -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:184]:
```suggestion
  every value following the smaller ordinal are fixed points of -/
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 8]
```diff
@@ -0,0 +1,365 @@
...
+lemma lfp_approx_many_fixedPoints (a b : Ordinal.{u}) (h : a < b)
+    (h_fab : lfp_approx f a = lfp_approx f b):
+    ∀ i ≥ a, lfp_approx f i ∈ (fixedPoints f) := by
+  intro i h_i;
+  by_cases h_ia : i = a
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:189]:
```suggestion
  obtain rfl | h_ia := eq_or_ne i a
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 9]
```diff
@@ -0,0 +1,365 @@
...
+  · rw[h_ia]; exact lfp_approx_one_fixedPoint f a b h h_fab
+  · apply lfp_approx_eq_fp f a
+    · exact lfp_approx_one_fixedPoint f a b h h_fab
+    · exact Ne.lt_of_le' h_ia h_i
+
+/-- A fixed point of f is reached after the successor of the domains cardinality -/
+theorem lfp_approx_has_fixedPoint_cardinal : lfp_approx f (ord $ succ #α) ∈ (fixedPoints f) := by
+  let ⟨a, h_a, b, h_b, h_nab, h_fab⟩ := lfp_approx_equal_value f
+  cases (le_total a b) with
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:198]:
```suggestion
  cases le_total a b with
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 10]
```diff
@@ -0,0 +1,365 @@
...
+  | inl h_ab =>
+    exact lfp_approx_many_fixedPoints f a b (Ne.lt_of_le h_nab h_ab) h_fab
+      (ord $ succ #α) (le_of_lt h_a)
+  | inr h_ba =>
+    exact lfp_approx_many_fixedPoints f b a (Ne.lt_of_le (id (Ne.symm h_nab)) h_ba)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:203]:
```suggestion
    exact lfp_approx_many_fixedPoints f b a (h_nab.symm.lt_of_le h_ba)
```

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 11]
```diff
@@ -0,0 +1,365 @@
...
+
+/-- **Constructive Knaster-Tarski Theorem**: Some ordinal approximation of the least fixed point
+  is the least fixed point. Also known as ordinal approximation of the least fixed point.-/
+theorem lfp_approx_is_lfp : ∃ a : Ordinal, lfp_approx f a = lfp f := by
+  use (ord $ succ #α)
+  exact lfp_approx_cardinal_is_lfp f
+
+
+set_option linter.unusedVariables false in
+/-- Ordinal approximants of the least fixed points -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:237]: least?

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 12]
```diff
@@ -0,0 +1,365 @@
...
+def gfp_approx (a : Ordinal.{u}) : α :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/OrdinalApproximantsFixedPoints.lean:238]: Seems like a lot of repeated code after this. Maybe there's a clever way to avoid it?

**Review by Ruben-VandeVelde — COMMENTED** [review]
Sorry for the delayed response here, @PhoenixIra. I don't know enough about the mathematics to judge whether this is the right thing to prove, but I can make suggestions about mathlib style, which you'll find below. Could you let us know whether you're still up for finishing this PR?

**Comment by PhoenixIra** [comment]
Thank you for the detailed comments! I am rather busy the next two weeks. But as soon as I get to it, I will incorporate or react to all comments. I am also still very motivated to finish up the PR.

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean (hunk 2 above)
Comment (PhoenixIra) [reply Mathlib/Order/OrdinalApproximantsFixedPoints.lean]: I removed this as it was not necessary for any of the theorems.

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean (hunk 12 above)
Comment (PhoenixIra) [reply Mathlib/Order/OrdinalApproximantsFixedPoints.lean]: I use now the order homomorphism duality.

File: Mathlib/Order/FixedPoints.lean [hunk 13]
```diff
@@ -111,6 +111,9 @@ theorem le_gfp {a : α} (h : a ≤ f a) : a ≤ gfp f :=
   le_sSup h
 #align order_hom.le_gfp OrderHom.le_gfp
 
+theorem fixed_le_gfp {a : α} (h : f a = a) : a ≤ gfp f  :=
+  f.le_gfp h.ge
```
[the remark this answers is not in the document]
Comment (PhoenixIra) [reply Mathlib/Order/FixedPoints.lean:115]: I removed it, as I am not using it any more.

**Comment by PhoenixIra** [comment]
I believe, I have addressed all issues. Please let me know if I missed anything.

**Review by fpvandoorn — COMMENTED** [review]
Hi! Sorry that this has been in review limbo for a while. I'll try to be relatively responsive on this PR from now on.

I have some style and content comments below, but I also have some questions.
As mentioned below, your proof uses various non-constructive things (ordinals, the lemma `Injective.exists_ne_of_not_injective`, and other things), so I don't think you should claim that this proof is constructive. 
Also, you're not proving the Knaster–Tarski theorem, but only a subresult of that theorem. Lemma 1 from [Echenique2005], I believe? So please update the PR title/description + module doc + docstrings to reflect that.

**Comment by PhoenixIra** [comment]
Thank you for the review and don't worry about the delay.

I have changed the documentation to only communicate approximation scheme and explain why it's not constructive (despite the name of the papers). If I missed anything, please let me know.

I also decided to remove Ordinal from the filename, as the filename was already very long. Please also let me know if you think this is confusing now (as e.g. the Kleene fixed-point theorem is not located there)

I will also resolve / comment on your detailed comments.

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 14]
```diff
@@ -0,0 +1,235 @@
...
+    intro a' ha'b
+    by_cases haa : a' < a
+    · rw [← lfpApprox_add_one]
+      apply lfpApprox_monotone
+      simp only [Ordinal.add_one_eq_succ, succ_le_iff]
+      exact haa
+    · simp only [not_lt] at haa
+      cases le_iff_lt_or_eq.mp haa with
+      | inl haa => specialize IH a' ha'b (le_of_lt haa); rw [IH, h]
+      | inr haa => rw [← haa, h]
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:123]:
```suggestion
    · rw [IH a' ha'b (le_of_not_lt haa), h]
```
the case analysis is not necessary

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 15]
```diff
@@ -0,0 +1,235 @@
...
+  · exact lfpApprox_monotone f h_ab
+
+/-- There are distinct ordinals smaller than the successor of the domains cardinals
+  with equal value -/
+theorem distinct_ordinal_eq_lfpApprox : ∃ a < ord <| succ #α, ∃ b < ord <| succ #α,
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:128]:
```suggestion
theorem exists_lfpApprox_eq_lfpApprox : ∃ a < ord <| succ #α, ∃ b < ord <| succ #α,
```

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 16]
```diff
@@ -0,0 +1,235 @@
...
+    rw [mem_fixedPoints_iff, ← lfpApprox_add_one]
+    exact Monotone.eq_of_le_of_le (lfpApprox_monotone f)
+      h_fab (SuccOrder.le_succ a) (SuccOrder.succ_le_of_lt h_ab)
+  rw [lfpApprox_eq_of_mem_fixedPoint f]
+  · exact lfpApprox_has_one_fixedPoint
+  · exact h_ac
+  · exact lfpApprox_has_one_fixedPoint
+
+/-- A fixed point of f is reached after the successor of the domains cardinality -/
+theorem lfpApprox_has_fixedPoint_cardinal : lfpApprox f (ord <| succ #α) ∈ fixedPoints f := by
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:155]:
```suggestion
theorem lfpApprox_ord_mem_fixedPoints : lfpApprox f (ord <| succ #α) ∈ fixedPoints f := by
```

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 17]
```diff
@@ -0,0 +1,235 @@
...
+  let ⟨a, h_a, b, h_b, h_nab, h_fab⟩ := distinct_ordinal_eq_lfpApprox f
+  cases le_total a b with
+  | inl h_ab =>
+    exact lfpApprox_mem_fixedPoints_of_eq f (h_nab.lt_of_le h_ab) (le_of_lt h_a) h_fab
+  | inr h_ba =>
+    exact lfpApprox_mem_fixedPoints_of_eq f (h_nab.symm.lt_of_le h_ba) (le_of_lt h_b) (h_fab.symm)
+
+/-- Every value of the ordinal approximants are less or equal than every fixed point of f -/
+theorem lfpApprox_le_fixedPoint {a : α} (h_a : a ∈ fixedPoints f) (i : Ordinal) :
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:164]:
```suggestion
theorem lfpApprox_le_of_mem_fixedPoints {a : α} (h_a : a ∈ fixedPoints f) (i : Ordinal) :
```

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 18]
```diff
@@ -0,0 +1,235 @@
...
+    apply sSup_le
+    simp only [exists_prop, Set.mem_setOf_eq, forall_exists_index, and_imp,
+      forall_apply_eq_imp_iff₂]
+    intro j h_j
+    rw [← h_a]
+    apply f.monotone'
+    exact IH j h_j
+
+/-- The least fixed point of f is reached after the successor of the domains cardinality -/
+theorem lfpApprox_cardinal_is_lfp : lfpApprox f (ord <| succ #α) = lfp f := by
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:178]:
```suggestion
theorem lfpApprox_ord_eq_lfp : lfpApprox f (ord <| succ #α) = lfp f := by
```

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 19]
```diff
@@ -0,0 +1,235 @@
...
+    let ⟨x, h_x⟩ := h_lfp; rw [h_x]
+    exact lfpApprox_le_fixedPoint f x.2 (ord <| succ #α)
+  · have h_fix : ∃ x : fixedPoints f, lfpApprox f (ord <| succ #α) = x := by
+      simpa only [Subtype.exists, mem_fixedPoints, exists_prop, exists_eq_right'] using
+        lfpApprox_has_fixedPoint_cardinal f
+    let ⟨x, h_x⟩ := h_fix; rw [h_x]
+    exact lfp_le_fixed f x.prop
+
+/-- Some ordinal approximation of the least fixed point is the least fixed point. -/
+theorem lfpApprox_is_lfp : ∃ a : Ordinal, lfpApprox f a = lfp f := by
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:190]:
```suggestion
theorem exists_lfpApprox_eq_lfp : ∃ a : Ordinal, lfpApprox f a = lfp f := by
```

Comment (fpvandoorn) [reply Mathlib/Order/ApproximantsFixedPoints.lean:190]: Actually, this is a better way of stating this (same proof works):
```suggestion
theorem lfp_mem_range_lfpApprox : lfp f ∈ Set.range (lfpApprox f) := by
```

**Review by fpvandoorn — APPROVED** [review]
Thanks for the changes.

I have a few more suggestions. If you incorporate those (and the same for `gfp`, then I'm happy to merge this.

File: Mathlib/Order/OrdinalApproximantsFixedPoints.lean [hunk 20]
```diff
@@ -0,0 +1,266 @@
...
+
+universe u
+variable {α : Type u}
+variable [CompleteLattice α] (f : α →o α)
+
+open Function fixedPoints Cardinal Order OrderHom
+
+set_option linter.unusedVariables false in
+/-- Ordinal approximants of the least fixed points -/
+def lfpApprox (a : Ordinal.{u}) : α :=
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Mathlib/Order/OrdinalApproximantsFixedPoints.lean]: That's fair, there are indeed some problems with starting at other values. However, you can assume that `x <= f x`, in which case you the two definitions should coincide, and you should be able to prove everything (and then `gfpApprox` characterizes the other case, where `f x <= x`.

File: Mathlib/Order/ApproximantsFixedPoints.lean [hunk 21]
```diff
@@ -0,0 +1,235 @@
+/-
+Copyright (c) 2024 Ira Fesefeldt. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ira Fesefeldt
+-/
+import Mathlib.Order.FixedPoints
+import Mathlib.Logic.Function.Basic
+import Mathlib.SetTheory.Ordinal.Basic
+import Mathlib.SetTheory.Cardinal.Basic
+import Mathlib.SetTheory.Ordinal.Arithmetic
```
Comment (fpvandoorn) [inline Mathlib/Order/ApproximantsFixedPoints.lean:10]: Can you remove all files that are transitively imported?

**Comment by fpvandoorn** [comment]
Can you move/rename the file to `Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean`? I think `Ordinal` is a better folder for this file (though I do not feel strongly about this), but the name `FixedPointApproximants` is a bit better than the current name.

**Comment by PhoenixIra** [comment]
Every suggestion should be incorporated.

File: Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean [hunk 22]
```diff
@@ -0,0 +1,262 @@
...
+  unfold Monotone; intros a b h; unfold lfpApprox
+  refine sSup_le_sSup ?h
+  apply sup_le_sup_right
+  simp only [exists_prop, Set.le_eq_subset, Set.setOf_subset_setOf, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂]
+  intros a' h'
+  use a'
+  exact ⟨lt_of_lt_of_le h' h, rfl⟩
+
+theorem init_le_lfpApprox {a : Ordinal}: x ≤ (lfpApprox f x a) := by
```
Comment (fpvandoorn) [inline Mathlib/SetTheory/Ordinal/FixedPointApproximants.lean:87]:
```suggestion
theorem le_lfpApprox {a : Ordinal}: x ≤ lfpApprox f x a := by
```
Otherwise than this, LGTM

**Comment by fpvandoorn** [comment]
Thank you for incorporating all review suggestions!

bors merge
